US07977477B2
4-Nitro-1H-pyrazole-3-carboxylic acid (2-amino-4,5-dimethoxy-phenyl)-amide (2.35 g, 7.65 mmol) was dissolved in acetic acid (150 ml) and refluxed at 140° C. for 5 hours. The solution was left to cool and the solvent removed in vacuo. The resulting solid was partitioned between ethyl acetate (25 ml) and brine (25 ml). The organic layer was separated, dried (MgSO4), filtered and the solvent removed in vacuo to yield 5,6-dimethoxy-2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazole (2.08 g, 94%).

reactant | 4-Nitro-1H-pyrazole-3-carboxylic acid (2-amino-4,5-dimethoxy-phenyl)-amide | 7.65 mmol, 2.35 g | NC1=C(C=C(C(=C1)OC)OC)NC(=O)C1=NNC=C1[N+](=O)[O-] | C12H13N5O5
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 5,6-dimethoxy-2-(4-nitro-1H-pyrazol-3-yl)-1H-benzimidazole | 2.08 g, 94% | COC1=CC2=C(NC(=N2)C2=NNC=C2[N+](=O)[O-])C=C1OC | C12H11N5O4
